US05753657
The procedure is performed as in Example 17 for the preparation of 10-(2-furylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, but starting with 3 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 60 ml of dimethyl sulphoxide, 0.96 g of sodium hydride and 1.6 g of 3-pyridinecarboxaldehyde. 1.38 g of 10-(3-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one are obtained, in the form of a yellow-orange solid melting above 260° C. (Analysis % calculated C: 73.07, H: 3.87, N: 17.94, O: 5.12, % found C: 73.1, H: 3.9, N: 17.9, O: 5.1).

reactant | 10-(2-furylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | O1C(=CC=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C18H11N3O2
reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 3 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 3-pyridinecarboxaldehyde | 1.6 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | dimethyl sulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 10-(3-pyridylmethylene)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 1.38 g | N1=CC(=CC=C1)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H12N4O
